### PR TITLE
feat(ErdosProblems): 997

### LINKED ISSUE #1061: Erdős Problem 997
### What is the conjecture

https://www.erdosproblems.com/997

  Call $x_1,x_2,\ldots \in (0,1)$ well-distributed if, for every $\epsilon>0$, if $k$ is sufficiently large then, for all $n>0$ and intervals $I\subseteq [0,1]$,
$$\lvert \\# \\{ n<m\leq n+k : x_m\in I\\} - \lvert I\rvert k\rvert < \epsilon k.$$

Is it true that, for every $\alpha$, the sequence $\\{ \alpha p_n\\}$ is not well-distributed, if $p_n$ is the sequence of primes?

Status:  open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by danielchin**
Closes #1061 

Formalizes Erdos Problem 997: https://www.erdosproblems.com/997

The definition of well-distributed is also used in Problem 154, so maybe we move it to somewhere central?

Assisted by Gemini/Antigravity

### CODE REVIEW

File: FormalConjectures/ErdosProblems/997.lean [hunk 1]
```diff
@@ -0,0 +1,88 @@
...
+sufficiently large then, for all $n>0$ and intervals $I\subseteq [0,1]$,
+$\lvert \# \{ n < m\leq n+k : x_m\in I\} - \lvert I\rvert k\rvert < \epsilon k.$
+
+The notion of a well-distributed sequence was introduced by Hlawka and Petersen [Hl55].
+-/
+def IsWellDistributed (x : ℕ → ℝ) : Prop :=
+  ∀ ε > 0, ∃ K : ℕ, ∀ k ≥ K, ∀ n : ℕ,
+  ∀ a b, 0 ≤ a → a ≤ b → b ≤ 1 →
+    let count := (Finset.Ioc n (n + k)).filter (fun m ↦ x m ∈ Ico a b)
+    abs ((count.card : ℝ) - (b - a) * k) < ε * k
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/997.lean]:
```suggestion
  ∀ ε > 0, ∀ᶠ k in Filter.atTop, ∀ n : ℕ,
  ∀ a b, 0 ≤ a → a ≤ b → b ≤ 1 →
    letI I := Ico a b
    let count := (Finset.Ioc n (n + k)).filter (fun m ↦ x m ∈ I)
    abs ((count.card : ℝ) - (b - a) * k) < ε * k
```

File: FormalConjectures/ErdosProblems/997.lean [hunk 2]
```diff
@@ -0,0 +1,88 @@
...
+
+/--
+Is it true that, for every $\alpha$, the sequence $\{ \alpha p_n\}$ is not well-distributed,
+if $p_n$ is the sequence of primes?
+
+The existence of such an $\alpha$ was established by Champagne, Le, Liu, and Wooley [CLLW24].
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/997.lean]:
```suggestion
```
This is already the theorem below, right?

File: FormalConjectures/ErdosProblems/997.lean [hunk 3]
```diff
@@ -0,0 +1,88 @@
...
+      ∀ α : ℝ, ¬ IsWellDistributed (fun n ↦ Int.fract (α * (Nat.nth Nat.Prime n))) := by
+  sorry
+
+/--
+Erdős proved that, if $n_k$ is a lacunary sequence, then the sequence $\{ \alpha n_k\}$ is not
+well-distributed for almost all $\alpha$.
+-/
+@[category research solved, AMS 11]
+theorem erdos_997.variants.lacunary (n : ℕ → ℕ)
+    (h : ∃ q > 1, ∀ k, (n (k + 1) : ℝ) ≥ q * (n k : ℝ)) :
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/997.lean]:
```suggestion
theorem erdos_997.variants.lacunary (n : ℕ → ℕ) (h : IsLacunary n) :
```

File: FormalConjectures/ErdosProblems/997.lean [hunk 4]
```diff
@@ -0,0 +1,88 @@
...
+/--
+Is it true that, for every $\alpha$, the sequence $\{ \alpha p_n\}$ is not well-distributed,
+if $p_n$ is the sequence of primes?
+
+The existence of such an $\alpha$ was established by Champagne, Le, Liu, and Wooley [CLLW24].
+-/
+@[category research open, AMS 11]
+theorem erdos_997 :
+    answer(sorry) ↔
+      ∀ α : ℝ, ¬ IsWellDistributed (fun n ↦ Int.fract (α * (Nat.nth Nat.Prime n))) := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/997.lean]:
```suggestion
      ∀ α : ℝ, ¬ IsWellDistributed (fun n ↦ Int.fract (α * (n.nth Nat.Prime))) := by
```

File: FormalConjectures/ErdosProblems/997.lean [hunk 5]
```diff
@@ -0,0 +1,88 @@
...
+theorem is no doubt correct and perhaps will not be difficult to prove but I never was able to
+reconstruct my 'proof' which perhaps never existed."
+
+Champagne, Le, Liu, and Wooley [CLLW24] proved that there exists an irrational $\alpha$ for which
+$\{\alpha p_n\}$ is not well-distributed.
+-/
+@[category research solved, AMS 11]
+theorem erdos_997.variants.irrational :
+    ∃ α : ℝ, Irrational α ∧
+      ¬ IsWellDistributed (fun n ↦ Int.fract (α * (Nat.nth Nat.Prime n))) := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/997.lean]:
```suggestion
      ¬ IsWellDistributed (fun n ↦ Int.fract (α * (n.nth Nat.Prime))) := by
```

**Review by mo271 — APPROVED** [review]
Thanks, LGTM, just a few nits

File: FormalConjectures/ErdosProblems/997.lean (hunk 3 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/997.lean]: Hmm, I probably should just check for the prop next time.

File: FormalConjectures/ErdosProblems/997.lean (hunk 5 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/997.lean]: Done.

File: FormalConjectures/ErdosProblems/997.lean (hunk 4 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/997.lean]: Done.

File: FormalConjectures/ErdosProblems/997.lean (hunk 1 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/997.lean]: Done.

File: FormalConjectures/ErdosProblems/997.lean (hunk 2 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/997.lean]: Oops, mixed up the doc strings, removed this and cleaned up the one at the bottom to match the Erdos Problems website.

**Comment by mo271** [comment]
Thanks again!
